US09102591B2
2,3-dichloro-N-(4-methoxy-2-(2-(trifluoromethyl)pyrimidin-5-yl)butyl)benz amide
From 2,3-dichlorobenzoic acid and 4-methoxy-2-(2-(trifluoromethyl)pyrimidin-5-yl)butan-1-amine. LCMS (MH+): m/z=422.0, tR (minutes, Method F)=2.73

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 4-methoxy-2-(2-(trifluoromethyl)pyrimidin-5-yl)butan-1-amine | COCCC(CN)C=1C=NC(=NC1)C(F)(F)F | C10H14F3N3O
product | 2,3-dichloro-N-(4-methoxy-2-(2-(trifluoromethyl)pyrimidin-5-yl)butyl)benz amide | ClC1=C(C(=O)NCC(CCOC)C=2C=NC(=NC2)C(F)(F)F)C=CC=C1Cl | C17H16Cl2F3N3O2
